US06673800B2
Preparation of 1-{3-[3-(3,4-Dimethoxyphenyl)-4,5-dihydroisoxazol-5-yl]propyl}-4-(2-ethoxyphenyl)piperazine
3-[3-(3,4-Dimethoxyphenyl)-4,5-dihydroisoxazol-5-yl]propanal (22.96 mg, 0.090 mmol), 1-(2-ethoxyphenyl)piperazine hydrochloride (20.0 mg, 0.082 mmol), molecular sieve (5 beads), NaBH(OAc)3 (52.4 mg, 0.247 mmol) and diisopropylethylamine (26.95 L, 0.082 mmol) were reacted in 3 mL of methylene chloride for about 12 hr. With the following processes the same as in Example 1, 22.9 mg (68.2%) of the target compound was obtained.

reactant | 3-[3-(3,4-Dimethoxyphenyl)-4,5-dihydroisoxazol-5-yl]propanal | 0.090 mmol, 22.96 mg | COC=1C=C(C=CC1OC)C1=NOC(C1)CCC=O | C14H17NO4
reactant | 1-(2-ethoxyphenyl)piperazine hydrochloride | 0.082 mmol, 20.0 mg | Cl.C(C)OC1=C(C=CC=C1)N1CCNCC1
reactant | NaBH(OAc)3 | 0.247 mmol, 52.4 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | diisopropylethylamine | 0.082 mmol, 26.95 L | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | 1-{3-[3-(3,4-Dimethoxyphenyl)-4,5-dihydroisoxazol-5-yl]propyl}-4-(2-ethoxyphenyl)piperazine | 22.9 mg, 68.2% | COC=1C=C(C=CC1OC)C1=NOC(C1)CCCN1CCN(CC1)C1=C(C=CC=C1)OCC | C26H35N3O4
